US08614206B2
Sodium ethoxide (21 mass % in ethanol; 8.69 mL, 23.268 mmol) was added to an ice-bath cooled mixture of 2-fluorobenzamidine (2.71 g, 15.512 mmol) in ethanol (100 mL). The resulting mixture was allowed to warm to room temperature and stirred at rt (room temperature) under nitrogen for 30 min. To the reaction mixture was added a solution of (E)-2,3-dibromo-4-oxo-but-2-enoic acid (2.00 g, 7.7561 mmol) in ethanol (20 ml). The mixture was heated at 50° C. for 3 h. After cooling to RT, the reaction was concentrated in vacuo. Water and 1M NaOH (˜50 ml) were added and the aqueous mixture was extracted with EtOAc. The aqueous phase was acidified to pH4 with 1N HCl (about 30 ml), then extracted with EtOAc 3×. Combined organic extracts were dried over sodium sulfate, filtered and concentrated to gave 5-bromo-2-(2-fluorophenyl)pyrimidine-4-carboxylic acid, 770 mg.

reactant | Sodium ethoxide | 23.268 mmol, 8.69 mL | [O-]CC.[Na+]
reactant | 2-fluorobenzamidine | 15.512 mmol, 2.71 g | FC1=C(C(=N)N)C=CC=C1 | C7H7FN2
reactant | (E)-2,3-dibromo-4-oxo-but-2-enoic acid | 7.7561 mmol, 2.00 g | Br\C(\C(=O)O)=C(/C=O)\Br | C4H2Br2O3
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-bromo-2-(2-fluorophenyl)pyrimidine-4-carboxylic acid | BrC=1C(=NC(=NC1)C1=C(C=CC=C1)F)C(=O)O | C11H6BrFN2O2
